US08729068B2
To a mixture of 275 mg of methyl 4-(ethyl{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}amino)benzoate and 5.0 mL of methanol was added 2.0 mL of a 1 M aqueous sodium hydroxide solution, followed by stirring at 60° C. for 15 hours. The reaction mixture was concentrated under reduced pressure, then to the residue was added 1 M hydrochloric acid, and the precipitate was collected by filtration. The obtained yellowish-white solid was solidified with methanol and the precipitate was collected by filtration to obtain 248 mg of 4-{[(3-{[3-({4-[2-(4-carboxyphenyl)ethyl]phenyl}carbamoyl)-4,5,6,7-tetrahydro-1-benzothiophen-2-yl]carbamoyl}phenyl)sulfonyl](ethyl)amino}benzoic acid as yellowish-white crystal.

reactant | methyl 4-(ethyl{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}amino)benzoate | 275 mg | C(C)N(C1=CC=C(C(=O)OC)C=C1)S(=O)(=O)C1=CC(=CC=C1)C(NC=1SC2=C(C1C(NC1=CC=C(C=C1)CCC1=CC=C(C=C1)C(=O)OC)=O)CCCC2)=O | C42H41N3O8S2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | methanol | 5.0 mL | CO | CH4O
product | 4-{[(3-{[3-({4-[2-(4-carboxyphenyl)ethyl]phenyl}carbamoyl)-4,5,6,7-tetrahydro-1-benzothiophen-2-yl]carbamoyl}phenyl)sulfonyl](ethyl)amino}benzoic acid | 248 mg | C(=O)(O)C1=CC=C(C=C1)CCC1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(C=CC2)S(=O)(=O)N(C2=CC=C(C(=O)O)C=C2)CC | C40H37N3O8S2
